US04456465
A mixture of P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid (0.40 g, 0.97 mmol), chloromethyl benzoate (0.23 g, 1.36 mmol) and triethylamine (0.27 g) in 4 ml of DMF is stirred at RT for 4 days. The reaction mixture is poured into water and extracted with methylene chloride. The combined extracts are washed, dried, evaporated to dryness and purified by prep. TLC (eluting with 50% ethyl acetate/hexane) to yield benzoyloxymethyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate.

reactant | P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinic acid | 0.97 mmol, 0.40 g | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C15H12ClF3NO5P
reactant | chloromethyl benzoate | 1.36 mmol, 0.23 g | C(C1=CC=CC=C1)(=O)OCCl | C8H7ClO2
reactant | triethylamine | 0.27 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | benzoyloxymethyl P-ethyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate | C(C)P(OCOC(C1=CC=CC=C1)=O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C23H18ClF3NO7P
